US05811459
A mixture of methyl 3-fluoro-4-methylbenzoate (4.3 g), N-bromosuccinimide (4.5 g) and AIBN (20 mg) in carbon tetrachloride was irradiated with a 100 W Tungsten lamp at reflux for 1 hour. The mixture was filtered through diatomaceous earth, and evaporated to give methyl 3-fluoro-4-(bromomethyl)benzoate (5.0 g).

reactant | methyl 3-fluoro-4-methylbenzoate | 4.3 g | FC=1C=C(C(=O)OC)C=CC1C | C9H9FO2
reactant | N-bromosuccinimide | 4.5 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | Tungsten | [W] | W
catalyst | AIBN | 20 mg | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
product | methyl 3-fluoro-4-(bromomethyl)benzoate | 5.0 g | FC=1C=C(C(=O)OC)C=CC1CBr | C9H8BrFO2
